US04369309
1-[(3,4-Dihydro-2H-(1,3)-thiazino[3,2-a]benzimidazole-2-yl)methyl]-4-[(1-pyrrolidinylcarbonyl)methyl]piperazine:
To 20 ml of chloroform was dissolved 1.0 g of 3,4-dihydro-2-piperazinomethyl-2H-(1,3)-thiazino[3,2-a]benzimidazole, followed by the addition of 0.4 g of 1-chloroacetylpyrrolidine under ice-cooling conditions. Thereafter, 0.5 ml of triethylamine was added dropwise. The mixture was stirred at room temperature for 8 hours. After the completion of the reaction, the reaction mixture was added with water and then extracted with chloroform. The resultant chloroform layer was dried over anhydrous magnesium sulfate. Chloroform was evaporated under reduced pressure and the residue was chromatographed on silica gel and eluted with chloroform to obtain 0.57 g (Yield: 41%) of the intended product, m.p. 159°-162° C.;

reactant | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
reactant | 3,4-dihydro-2-piperazinomethyl-2H-(1,3)-thiazino[3,2-a]benzimidazole | 1.0 g | N1(CCNCC1)CC1CCN2C(=NC3=C2C=CC=C3)S1 | C15H20N4S
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
product | 1-[(3,4-Dihydro-2H-(1,3)-thiazino[3,2-a]benzimidazole-2-yl)methyl]-4-[(1-pyrrolidinylcarbonyl)methyl]piperazine | 0.57 g, Yield: 41% | S1C(CCN2C1=NC1=C2C=CC=C1)CN1CCN(CC1)CC(=O)N1CCCC1 | C21H29N5OS
